US08754073B2
36.2 diethyl-{2-[4-(piperidin-4-yloxy)-phenoxy]-ethyl}-amine (V-3)
10.1 g tert-butyl 4-[4-(2-diethylaminoethoxy)-phenoxy]-piperidine-1-carboxylate are placed in 20 ml dichloromethane and combined with 30 ml trifluoroacetic acid while being cooled. The reaction mixture is stirred at ambient temperature. After 2 hours the reaction mixture is evaporated to dryness. The residue is combined with an NaOH solution (1M) and the product is extracted with dichloromethane. 5.6 g (V-3) are obtained.

reactant | tert-butyl 4-[4-(2-diethylaminoethoxy)-phenoxy]-piperidine-1-carboxylate | 10.1 g | C(C)N(CCOC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)CC | C22H36N2O4
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | diethyl-{2-[4-(piperidin-4-yloxy)-phenoxy]-ethyl}-amine | C(C)N(CCOC1=CC=C(C=C1)OC1CCNCC1)CC | C17H28N2O2
